US07763731B2
A solution of 4-chloro-3-nitro-phenol was reacted with 1-Bromo-4-bromomethyl-benzene using the conditions described in Example 237C to provide 4-(4-Bromo-benzyloxy)-1-chloro-2-nitro-benzene which was treated sequentially using the procedures from Examples 237D and 237E to provide the title product.

reactant | 4-chloro-3-nitro-phenol | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | 1-Bromo-4-bromomethyl-benzene | BrC1=CC=C(C=C1)CBr | C7H6Br2
product | 4-(4-Bromo-benzyloxy)-1-chloro-2-nitro-benzene | BrC1=CC=C(COC2=CC(=C(C=C2)Cl)[N+](=O)[O-])C=C1 | C13H9BrClNO3
